US08536165B2
A mixture of 2-bromo-5-nitro-3-phenylpyridine (0.72 mmol, 0.2 g), 2-cyclopropyl-4,4,5,5-tetramethyl-1,3,2-dioxaborolane (0.86 mmol, 0.16 ml), Pd(PPh3)4 (0.04 mmol, 0.05 g), K2CO3 (2 mmol, 0.28 g) in a toluene/methanol 4:1 mixture (10 ml) was heated at 100° C. for 30 minutes in a microwave, under argon atmosphere. The solvent was evaporated and the crude mixture was extracted between water and ethyl acetate. The solid residue was purified by chromatography over SiO2 eluting with hexane/ethyl acetate mixtures affording 2-methoxy-5-nitro-3-phenylpyridine (0.1 g, yield 55%) of an unexpected product.

reactant | 2-bromo-5-nitro-3-phenylpyridine | 0.72 mmol, 0.2 g | BrC1=NC=C(C=C1C1=CC=CC=C1)[N+](=O)[O-] | C11H7BrN2O2
reactant | 2-cyclopropyl-4,4,5,5-tetramethyl-1,3,2-dioxaborolane | 0.86 mmol, 0.16 ml | C1(CC1)B1OC(C(O1)(C)C)(C)C | C9H17BO2
reactant | K2CO3 | 2 mmol, 0.28 g | C(=O)([O-])[O-].[K+].[K+]
catalyst | Pd(PPh3)4 | 0.04 mmol, 0.05 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | toluene methanol | C1(=CC=CC=C1)C.CO
product | 2-methoxy-5-nitro-3-phenylpyridine | 0.1 g, yield 55% | COC1=NC=C(C=C1C1=CC=CC=C1)[N+](=O)[O-] | C12H10N2O3
